US04086219
(i) Nα -Benzyloxycarbonyl-D-phenylalanyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride
The L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride obtained from de-protection of 6.43 g. of Nα -benzyloxy-carbonyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride, 4.3 g. of Nα -benzyloxycarbonyl-D-phenylalanine p-nitrophenyl ester (prepared as for the L-isomer, J. Org. Chem. 27, 3409 (1962)) and 30 ml. of dimethylformamide is stirred until solution is complete. The solution is allowed to stand at 25° C. for 24 hours, filtered from a small amount of fine solid and again allowed to stand at 25° C. for 24 hours. The solution is evaporated to dryness at 40° C. under reduced pressure. The residue is dissolved in methanol (40 ml.) and ethyl acetate (30 ml.) and dropped into 300 ml. of stirred dry diethyl ether. The granular solid which precipitates is separated by decanting and the precipitation is repeated. The solid is separated and dried at 45° C. under reduced pressure to give 6.5 g. of product suitable for use but showing by ultraviolet absorption 0.37% of p-nitrophenol; [α]D23 -54.6° (c 1.0, methanol); ultraviolet in methanol λmax 257 E11 5.8.

reactant | L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
reactant | Nα -benzyloxy-carbonyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C1=CC=CC=C1)ON[C@@H](C(C(C)C)=C=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
reactant | Nα -benzyloxycarbonyl-D-phenylalanine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H20N2O6
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -Benzyloxycarbonyl-D-phenylalanyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C36H51N9O7.ClH/c1-23(2)19-27(43-32(48)28(20-24-11-5-3-6-12-24)44-36(51)52-22-25-13-7-4-8-14-25)31(47)42-26(15-9-17-40-35(38)39)34(50)45-18-10-16-29(45)33(49)41-21-30(37)46;/h3-8,11-14,23,26-29H,9-10,15-22H2,1-2H3,(H2,37,46)(H,41,49)(H,42,47)(H,43,48)(H,44,51)(H4,38,39,40);1H/t26-,27-,28+,29-;/m0./s1
